US06509329B1
Synthesis of Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)-pyridin-4-yl]propenoate
2-(3,4,5-Trimethoxyphenyl)pyridine-4-carboaldehyde (507 mg) and ethyl diethylphosphonoacetate (570 μL) were dissolved in tert-butanol (16 mL), and to the solution potassium carbonate (438 mg) was added. The mixture was stirred for 3 hours under reflux and concentrated under reduced pressure. The residue was dissolved in chloroform, and the solution was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound.

reactant | 2-(3,4,5-Trimethoxyphenyl)pyridine-4-carboaldehyde | 507 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)C=O | C15H15NO4
reactant | ethyl diethylphosphonoacetate | 570 μL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | potassium carbonate | 438 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tert-butanol | 16 mL | C(C)(C)(C)O | C4H10O
product | Ethyl 3-[2-(3,4,5-Trimethoxyphenyl)-pyridin-4-yl]propenoate | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)C=CC(=O)OCC | C19H21NO5
